data/oMe_Silver.jsonl
{"reaction_id": "NR-230_1-C(=O)N(C)C_2-c1cccc2ccccc12","level": "hard","name": "Pummerer Rearrangement","reactants_smiles": ["O=C(C)OC(=O)C","S(=O)(CC(=O)N(C)C)(c1cccc2ccccc12)"],"products_smiles": ["O=C(C)OC(C(=O)N(C)C)S(c1cccc2ccccc12)"],"conditions": "Acetic anhydride","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](OC([O-])(C)OC(=O)C)(CC(=O)N(C)C)(c1cccc2ccccc12)","step_weight": 0,"rationale": "Acetic anhydride acylates the sulfoxide oxygen due to its high electrophilicity, generating an oxysulfonium ion stabilized by resonance with sulfur, making the α-protons more acidic."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S+](OC(=[O])(C))(CC(=O)N(C)C)(c1cccc2ccccc12)","step_weight": 0,"rationale": "Elimination of acetate occurs because it is a good leaving group, forming a sulfonium species with an electron-deficient α-carbon primed for rearrangement."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](=CC(=O)N(C)C)(c1cccc2ccccc12)","step_weight": 0,"rationale": "The α-carbon adjacent to the positively charged sulfur becomes electrophilic, enabling intramolecular rearrangement via C–S bond migration to stabilize the cation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)OC(C(=O)N(C)C)S(c1cccc2ccccc12)","step_weight": 0,"rationale": "Acetate attacks the α-carbon, displacing the sulfonium charge and forming the α-acyloxy sulfide, driven by the nucleophilicity of acetate and product stability."}],"description": "In acetic anhydride, the sulfoxide oxygen is activated toward rearrangement by electrophilic acylation, forming an oxysulfonium intermediate. This facilitates α-proton removal and rearrangement to a stabilized cation, which is trapped by acetate to yield the α-acyloxy sulfide product."}
{"reaction_id": "NR-131_1-C(=O)OCC_2-C#N_3-O[Si](C)(C)C(C)(C)C_4-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Lemieux-Johnson Oxidation","reactants_smiles": ["C(C(=O)OCC)(C#N)=C(O[Si](C)(C)C(C)(C)C)(c1ccc(C(F)(F)F)cc1)"],"products_smiles": ["C(C(=O)OCC)(C#N)=O","C(O[Si](C)(C)C(C)(C)C)(c1ccc(C(F)(F)F)cc1)=O"],"conditions": "O=[Os](=O)(=O)=O, [Na+].[O-][I+3](=O)=O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(=O)OCC)(C#N)O[Os](=O)(=O)OC1(O[Si](C)(C)C(C)(C)C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The electron-rich alkene π-bond reacts with electrophilic OsO4 in a concerted [3+2] cycloaddition, favored by strong osmium–oxygen electrophilicity and minimal steric hindrance, forming a stable cyclic osmate ester."},{"step": 2,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(O)(C(=O)OCC)(C#N)C(O)(O[Si](C)(C)C(C)(C)C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Hydrolysis of the osmate ester occurs because osmium–oxygen bonds are labile in aqueous conditions, producing a vicinal diol stabilized by hydrogen bonding and relief of ring strain."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(C(=O)OCC)(C#N)O[I](=O)(=O)(O)OC1(O[Si](C)(C)C(C)(C)C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Periodate acts as an electrophile toward the diol, forming a cyclic periodate ester driven by favorable overlap of oxygen lone pairs with iodine’s empty orbitals and the release of water."},{"step": 4,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(C(=O)OCC)(C#N)=O.C(O[Si](C)(C)C(C)(C)C)(c1ccc(C(F)(F)F)cc1)=O","step_weight": 0,"rationale": "The cyclic periodate ester undergoes C–C bond cleavage via cycloreversion, favored by the formation of two stable carbonyl groups and relief of ring strain in the intermediate."}],"description": "The alkene undergoes osmium tetroxide-mediated syn-dihydroxylation via a [3+2] cycloaddition, followed by oxidative cleavage with periodate. The cyclic osmate ester and periodate ester intermediates facilitate C–C bond cleavage, yielding two carbonyl compounds under mild oxidative conditions."}
